US05135932
6-[4-[3-[3-(4-(2-Isopropoxyethoxymethyl)phenoxy)-2-hydroxypropylamino]propylsulphonyl]phenyl]-4,5-dihydro-3(2H)-pyridazinone
Prepared analogously to Example 1 from 1-[4-(2-isopropoxyethoxymethyl)phenoxy]-2,3-epoxypropane and 6-[4-(3-aminopropylsulphonyl)phenyl]-3(2H)-pyridazinone.

reactant | 1-[4-(2-isopropoxyethoxymethyl)phenoxy]-2,3-epoxypropane | C(C)(C)OCCOCC1=CC=C(OCC2CO2)C=C1 | C15H22O4
reactant | 6-[4-(3-aminopropylsulphonyl)phenyl]-3(2H)-pyridazinone | NCCCS(=O)(=O)C1=CC=C(C=C1)C=1C=CC(NN1)=O | C13H15N3O3S
product | 6-[4-[3-[3-(4-(2-Isopropoxyethoxymethyl)phenoxy)-2-hydroxypropylamino]propylsulphonyl]phenyl]-4,5-dihydro-3(2H)-pyridazinone | C(C)(C)OCCOCC1=CC=C(OCC(CNCCCS(=O)(=O)C2=CC=C(C=C2)C=2CCC(NN2)=O)O)C=C1 | C28H39N3O7S
